US06569396B1
On the other hand, the dry-type synthesizing method is a method in which calcium carbonate is reacted with calcium pyrophosphate in a solid phase at a high temperature thereby to obtain calcium phosphate powder.

reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | calcium pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Ca+2].[Ca+2]
product | calcium phosphate | P(=O)([O-])([O-])[O-].[Ca+2].P(=O)([O-])([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/3Ca.2H3O4P/c;;;2*1-5(2,3)4/h;;;2*(H3,1,2,3,4)/q3*+2;;/p-6
